datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+:21](C)(c1ccc(Br)cc1)[H:20].O=C(CS/C=C/c1ccccc1)[O-:10]>>C[N:21](C)c1ccc(Br)cc1.O=C(CS/C=C/c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)Cc1c(Cl)cccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+](CC)Cc1c(Cl)cccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(Nc1cccc[n+:21]1[H:20])c1ccccc1.c1ccc2c([O-:10])[nH+]ncc2c1>>O=C(Nc1cccc[n:21]1)c1ccccc1.c1ccc2c([O:10][H:20])[nH+]ncc2c1 10=20;20,21=21",
"CCCCCC[NH+:21](CCCCCC)[H:20].c1ccc(C2=[N:10]CCN2)nc1>>CCCCCC[NH:21]CCCCCC.c1ccc(C2=[N+:10]([H:20])CCN2)nc1 10=20;20,21=21",
"Nc1cc[n+:21]([H:20])cc1Br.OCc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1>>Nc1cc[n:21]cc1Br.OCc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"C=C(C)C(=O)OC(C)C[N+:21](CC)(CC)[H:20].C[n+]1nc(-c2ccccc2)ccc1NCC[N:10]1CCOCC1>>C=C(C)C(=O)OC(C)C[N:21](CC)CC.C[n+]1nc(-c2ccccc2)ccc1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"COc1ccc2c3c([n-:10]c2c1)C(C)NCC3.C[N+:21](C)(c1cc[nH+]cc1)[H:20]>>COc1ccc2c3c([n:10]([H:20])c2c1)C(C)NCC3.C[N:21](C)c1cc[nH+]cc1 10=20;20,21=21",
"N#CC(CCCCC(=O)[O-:10])c1ccccc1.Nc1ccc(S(=O)(=O)[N:21](c2nccc(N)n2)[H:20])cc1>>N#CC(CCCCC(=O)[O:10][H:20])c1ccccc1.Nc1ccc(S(=O)(=O)[N-:21]c2nccc(N)n2)cc1 10=20;20,21=21",
"CCOCC[N+:21](CCOCC)(c1ccccc1)[H:20].c1cc([OH:10])c2cn[nH]c2c1>>CCOCC[N:21](CCOCC)c1ccccc1.c1cc([OH+:10][H:20])c2cn[nH]c2c1 10=20;20,21=21",
"C1CCC2C(C1)CCC[NH:10]2.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CCC2C(C1)CCC[NH+:10]2[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"NC1=[NH+][C@H]2C[C@@H](N1)[NH:10][C@@H]2C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC1=[NH+][C@H]2C[C@@H](N1)[NH+:10]([H:20])[C@@H]2C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H]([C@H]2O)[N:10](C)CC[C@@]341.OCC[N+:21](CCO)(CCO)[H:20]>>COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H]([C@H]2O)[N+:10](C)([H:20])CC[C@@]341.OCC[N:21](CCO)CCO 10=20;20,21=21",
"NCCCCCCCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NCCCCCCCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1coc(CNCC[NH:10]Cc2ccco2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1coc(CNCC[NH+:10](Cc2ccco2)[H:20])c1 10=20;20,21=21",
"C(=N/[NH2:10])\c1ncnc2nc[nH]c12.N#CC1=C[N+:21]2([H:20])CCC1CC2>>C(=N/[NH2+:10][H:20])\c1ncnc2nc[nH]c12.N#CC1=C[N:21]2CCC1CC2 10=20;20,21=21",
"CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH:21][H:20].[NH3+]CCCCC(=O)[O-:10]>>CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH-:21].[NH3+]CCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CSC(c1ccccc1)=[N+:21](C)[H:20].Clc1ccc2ccc([O-:10])cc2c1>>CSC(c1ccccc1)=[N:21]C.Clc1ccc2ccc([O:10][H:20])cc2c1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CCCC(=O)[O-:10].CNC(=O)c1ccccc1[O:21][H:20]>>C=CCCC(=O)[O:10][H:20].CNC(=O)c1ccccc1[O-:21] 10=20;20,21=21",
"Cc1c(O)ccc(C(=O)[O-])[n:10]1.O=C1C=C(c2ccc([O:21][H:20])cc2)Oc2ccccc21>>Cc1c(O)ccc(C(=O)[O-])[n+:10]1[H:20].O=C1C=C(c2ccc([O-:21])cc2)Oc2ccccc21 10=20;20,21=21",
"Cc1ccccc1C(=O)[O:21][H:20].[NH-]S(=O)(=O)c1nnc([N-:10]c2ccccc2)s1>>Cc1ccccc1C(=O)[O-:21].[NH-]S(=O)(=O)c1nnc([N:10](c2ccccc2)[H:20])s1 10=20;20,21=21",
"C[NH+](c1ccccc1)C([O-])[O-:10].O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2+:21][H:20]>>C[NH+](c1ccccc1)C([O-])[O:10][H:20].O=C([O-])[C@H](Cc1c[nH]cn1)NC(=O)[C@H](Cc1c[nH]cn1)[NH2:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C1CCCC[NH:10]1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.O=C([O-])C1CCCC[NH+:10]1[H:20] 10=20;20,21=21",
"Nc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12.OCC[N+:21](CCc1nnn[n-]1)(CCc1nnn[n-]1)[H:20]>>Nc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.OCC[N:21](CCc1nnn[n-]1)CCc1nnn[n-]1 10=20;20,21=21",
"c1ccc(C[NH+]2CCc3noc([O-:10])c3CC2)cc1.c1cncc(-c2[nH]c3ccccc3[n+:21]2[H:20])c1>>c1ccc(C[NH+]2CCc3noc([O:10][H:20])c3CC2)cc1.c1cncc(-c2[nH]c3ccccc3[n:21]2)c1 10=20;20,21=21",
"CCC[N:10](C)N.O=C1C([O-])=Nc2ccccc2[N:21]1[H:20]>>CCC[N+:10](C)(N)[H:20].O=C1C([O-])=Nc2ccccc2[N-:21]1 10=20;20,21=21",
"FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1.NC(CC/C(N)=[N:10]\O)=NO>>FC(F)(F)c1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1.NC(CC/C(N)=[N+:10](\O)[H:20])=NO 10=20;20,21=21",
"C[NH+](C)CCc1cccc([O-:10])c1.Cc1nc2nccnc2c[n+:21]1[H:20]>>C[NH+](C)CCc1cccc([O:10][H:20])c1.Cc1nc2nccnc2c[n:21]1 10=20;20,21=21",
"CC1CCn2nnnc2C(C(=O)[O:21][H:20])C1.O=P([O-])([O-])c1cn2c([n:10]1)[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO>>CC1CCn2nnnc2C(C(=O)[O-:21])C1.O=P([O-])([O-])c1cn2c([n+:10]1[H:20])[C@@H](O)[C@H](O)[C@@H](O)[C@@H]2CO 10=20;20,21=21",
"COc1c(CN)cc(C)cc1C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1c(CN)cc(C)cc1C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
